US08133909B2
(S)-2-(4-Fluoro-phenyl)-2-hydroxy-N-(6-methyl-pyridin-3-yl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 47, steps 2, 3 & 4, 6-Methyl-pyridin-3-ylamine, (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (4-Fluoro-phenyl)-oxo-acetic acid were successively coupled and reduced to give after separation by chromatography on a chiral column (+ve rotation) the target compound. MS(m/e): 434.1 [M+H]+.

reactant | 6-Methyl-pyridin-3-ylamine | CC1=CC=C(C=N1)N | C6H8N2
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (4-Fluoro-phenyl)-oxo-acetic acid | FC1=CC=C(C=C1)C(C(=O)O)=O | C8H5FO3
product | (S)-2-(4-Fluoro-phenyl)-2-hydroxy-N-(6-methyl-pyridin-3-yl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | FC1=CC=C(C=C1)[C@@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C=1C=NC(=CC1)C)O | C22H19F4N3O2
